US06090820
Step 3: (R)-[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methanol
To a flame dried flask cooled to -78° C. and equipped with a nitrogen inlet is introduced cis-3-(carbobenzyloxy)-7-[4-[(carbobenzyloxy)amino]-2-fluorophenyl]-3,7-diazabicyclo[3.3.0]octane (7.25 g, 14.81 mmol), THF (100 mL), and 1.6 M butyl lithium (9.72 mL, 15.55 mmol). The reaction is stirred at -78° C. for 1 hour before (R)-(-)-glycidyl butyrate (2.26 mL, 15.99 mmol) is added slowly and stirred for 2 hours at -78° C. and 15 hours at ambient temperature. Saturated ammonium chloride (50 mL) is added and the aqueous phase is extracted with ethyl acetate (2×50 mL). The extracts are combined, washed with saline (50 mL), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with chloroform/methanol (99/1). The appropriate fractions are combined (Rf =0.13, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, mp 168-171° C.

reactant | cis-3-(carbobenzyloxy)-7-[4-[(carbobenzyloxy)amino]-2-fluorophenyl]-3,7-diazabicyclo[3.3.0]octane | 14.81 mmol, 7.25 g | C(=O)(OCC1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F | C28H28FN3O4
reactant | butyl lithium | 15.55 mmol, 1.6 M, 9.72 mL | C(CCC)[Li]
reactant | (R)-(-)-glycidyl butyrate | 15.99 mmol, 2.26 mL | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methanol | C(=O)(OCC1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C24H26FN3O5
